US05840732
iii) Synthesis of 5-(ethylthiomethylene)-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride
To a solution of 0.76 g (1.93 mmol) of 5-(ethylthiomethylene)-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione in 20 ml of methanol, 0.21 ml of concentrated hydrochloric acid was added. After the solvent was distilled off, the residue was washed with diethyl ether to yield 0.78 g (94.0%, yellow solid) of the desired product.

reactant | 5-(ethylthiomethylene)-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione | 1.93 mmol, 0.76 g | C(C)SC=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | C17H19N3O2S3
reactant | hydrochloric acid | 0.21 ml | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 5-(ethylthiomethylene)-3-[4-(imidazo[1,2-a]pyridin-5-ylthio)butyl]thiazolidine-2,4-dione hydrochloride | Cl.C(C)SC=C1C(N(C(S1)=O)CCCCSC1=CC=CC=2N1C=CN2)=O | InChI=1S/C17H19N3O2S3.ClH/c1-2-23-12-13-16(21)20(17(22)25-13)9-3-4-11-24-15-7-5-6-14-18-8-10-19(14)15;/h5-8,10,12H,2-4,9,11H2,1H3;1H
